* C:\metal_detecturd\MEAT_HAW_SPICE\SMPS\CD4011_oscllaTURD_II.asc
V7 VDD 0 5
V2 0 -op 15 Rser=0
V1 +op 0 15 Rser=0
XU1 N001 N001 N004 VDD 0 CD4011B VDD=5 SPEED=1.0 TRIPDT=5e-9
XU2 N004 VDD N003 VDD 0 CD4011B VDD=5 SPEED=1.0 TRIPDT=5e-9
R3 N004 N002 10k
C2 N003 N002 50p Rser=.0008
R4 N001 N002 47k
.model SWI SW(Ron=1n Roff=1000G Vt=0.5 Vh=.4)
.model SW2 SW(Ron=1n Roff=1000G Vt=0.0 Vh=1u)
.param charge_pulse_width     1.u
.lib LM318.sub
.lib CD4066.sub
.inc CD4000.lib
.include cd4066.sub
.tran .001 startup uic
.backanno
.end
