* C:\metal_detecturd\MEAT_HAW_SPICE\SMPS\metal_SMPS_400v_limiter_n_regulated_306.asc
L2 N017 N009 96m65 Rser=.6 Cpar=95p
D1 N009 N010 1N4148
L3 N021 + 45µ Rser=.0003
C3 + 0 6600µ Rser=.005
S3 N013 N010 N015 0 SW2
V8 N013 0 1724 Rser=0
V9 N015 0 PULSE(0 400 0 0 0 20u 1 1) Rser=0
V10 N018 0 PULSE(0 20 100u 0 0 2u 500u) Rser=0
XU1 VDD 0 NC_01 N014 0 NC_02 NC_03 0 + 0 N023 IR2110
V7 VDD 0 5
M1 N021 N023 0 0 IRF740
V2 0 -op 15 Rser=0
D2 N017 N010 1N4148
D3 0 N009 1N4148
D4 0 N017 1N4148
V3 N011 0 2.5 Rser=0
XU4 P001 N006 N007 VDD 0 CD4011B VDD=5 SPEED=1.0 TRIPDT=5e-9
XU5 N007 N007 N014 VDD 0 CD4011B VDD=5 SPEED=1.0 TRIPDT=5e-9
XU6 N008 N008 P001 VDD 0 CD4011B VDD=5 SPEED=1.0 TRIPDT=5e-9
M2 N016 N018 0 0 IRF740
L4 N010 N016 250µH Rser=.17 Cpar=100p
L1 N020 0 .1µH
R2 N020 0 500
R3 N016 N010 400
R4 N019 N010 7.95Meg
R7 N019 0 50k
XU2 N019 N012 + -op N008 lm318
R1 N008 N012 1Meg
R5 N012 N011 1k
V4 N004 0 PULSE(0 5 0 100n 100n 800n 2u) Rser=0
C2 N006 N004 1n V=400 Irms=1 Lser=0
R9 0 N006 1k
D27 P002 N022 EDZV24B
D29 P003 P004 EDZV24B
D31 P005 P006 EDZV24B
D34 N024 P005 EDZV24B
D36 P004 N024 EDZV24B
D38 P007 P002 EDZV24B
D6 P008 P009 EDZV24B
D7 P010 P011 EDZV24B
D8 P006 P007 EDZV24B
D9 P009 P003 EDZV24B
D11 P012 NC_04 EDZV24B
D12 P011 P013 EDZV24B
D13 0 P014 EDZV24B
D14 P014 P010 EDZV24B
D15 P013 P008 EDZV24B
D5 P015 P012 EDZV24B
D10 P016 P015 EDZV24B
D16 N022 P016 EDZV24B
S1 N003 + N005 0 SW2
V1 N005 0 PULSE(0 1 2u 0 0 100 1 1) Rser=0
V5 + 0 15 Rser=0
R10 N003 + .5
R11 N002 + .003
S2 N002 + N001 0 SW2
V6 N001 0 PULSE(0 1 3u 0 0 150u 1 1) Rser=0
C5 N010 0 3µ Rser=.0015
C1 N010 0 135µ Rser=.7
C4 N010 0 135µ Rser=.7
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.mos
.tran 50m
K3 L3 L2 1.0
.inc ir2110.sub
.lib LM318.sub
.model SW2 SW(Ron=1n Roff=1000G Vt=0.5 Vh=.4)
.lib CD4066.sub
.inc CD4000.lib
.inc cd4066.sub
.lib NE5532.sub
K2 L1 L4 1.0
.backanno
.end
