* C:\metal_detecturd\MEAT_HAW_SPICE\SMPS\metal_SMPS_400v_limiter_n_regulated_307.asc
L2 N019 N010 96m65 Rser=.6 Cpar=95p
D1 N010 N011 1N4148
L3 N017 + 45µ Rser=.0003
C3 + 0 6600µ Rser=.005
S3 N014 N011 N016 0 SW2
V8 N014 0 1724 Rser=0
V9 N016 0 PULSE(0 400 0 0 0 20u 1 1) Rser=0
V10 N020 0 PULSE(0 20 100u 0 0 2u 500u) Rser=0
XU1 VDD N009 NC_01 N009 0 N015 + 0 + 0 N024 IR2110
V7 VDD 0 5
M1 N017 N024 0 0 IRF740
V2 0 -op 15 Rser=0
D2 N019 N011 1N4148
D3 0 N010 1N4148
D4 0 N019 1N4148
V3 N012 0 2.5 Rser=0
XU4 P001 N006 N007 VDD 0 CD4011B VDD=5 SPEED=1.0 TRIPDT=5e-9
XU5 N007 N007 N009 VDD 0 CD4011B VDD=5 SPEED=1.0 TRIPDT=5e-9
XU6 N008 N008 P001 VDD 0 CD4011B VDD=5 SPEED=1.0 TRIPDT=5e-9
M2 N018 N020 0 0 IRF740
L4 N011 N018 250µH Rser=.17 Cpar=100p
L1 N022 0 .1µH
R2 N022 0 500
R3 N018 N011 400
R4 N021 N011 7.95Meg
R7 N021 0 50k
XU2 N021 N013 + -op N008 lm318
R1 N008 N013 1Meg
R5 N013 N012 1k
V4 N004 0 PULSE(0 5 0 100n 100n 800n 2u) Rser=0
C2 N006 N004 1n V=400 Irms=1 Lser=0
R9 0 N006 1k
D27 P002 N023 EDZV24B
D29 P003 P004 EDZV24B
D31 P005 P006 EDZV24B
D34 N025 P005 EDZV24B
D36 P004 N025 EDZV24B
D38 P007 P002 EDZV24B
D6 P008 P009 EDZV24B
D7 P010 P011 EDZV24B
D8 P006 P007 EDZV24B
D9 P009 P003 EDZV24B
D11 P012 NC_02 EDZV24B
D12 P011 P013 EDZV24B
D13 0 P014 EDZV24B
D14 P014 P010 EDZV24B
D15 P013 P008 EDZV24B
D5 P015 P012 EDZV24B
D10 P016 P015 EDZV24B
D16 N023 P016 EDZV24B
S1 N003 + N005 0 SW2
V1 N005 0 PULSE(0 1 2u 0 0 100 1 1) Rser=0
V5 + 0 15 Rser=0
R10 N003 + .5
R11 N002 + .003
S2 N002 + N001 0 SW2
V6 N001 0 PULSE(0 1 3u 0 0 150u 1 1) Rser=0
C5 NC_03 0 3µ Rser=.0015
C1 NC_04 0 135µ Rser=.7
C4 NC_05 0 135µ Rser=.7
C6 N011 0 10n Rser=.7
M4 N017 N015 0 0 IRF740
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.mos
.tran 50m
K3 L3 L2 1.0
.inc ir2110.sub
.lib LM318.sub
.model SW2 SW(Ron=1n Roff=1000G Vt=0.5 Vh=.4)
.lib CD4066.sub
.inc CD4000.lib
.inc cd4066.sub
.lib NE5532.sub
K2 L1 L4 1.0
.backanno
.end
