* C:\metal_detecturd\MEAT_HAW_SPICE\SMPS\metal_SMPS_400v_limiter_n_regulated_307_max_tester_dual_fet.asc
L2 N006 N002 96m65 Rser=.6 Cpar=95p
D1 N002 N004 1N4148
L3 N005 + 45µ Rser=.0003
C3 + 0 6600µ Rser=.005
XU1 VDD N001 NC_01 N001 0 N003 + 0 + 0 N007 IR2110
V7 VDD 0 5
D2 N006 N004 1N4148
D3 0 N002 1N4148
D4 0 N006 1N4148
V5 + 0 15 Rser=.5
C6 N004 0 10n Rser=0
V1 N001 0 PULSE(0 5 0 10n 10n {duty/freq} {1/freq}) Rser=0
M1 N005 N007 0 0 IRF740
M2 N005 N003 0 0 IRF740
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.mos
.tran 2m
K3 L3 L2 1.0
.inc ir2110.sub
.lib LM318.sub
.model SW2 SW(Ron=1n Roff=1000G Vt=0.5 Vh=.4)
.lib CD4066.sub
.inc CD4000.lib
.inc cd4066.sub
.lib NE5532.sub
.param freq=500k
.param duty=.75
 
;.step param duty=0.1 0.95 0.05
;.param freq=500k
 
;.param duty=.5
;.step param freq list 10k 20k 50k 100k 200k 500k 750k 1000k
 
;.step param duty list .05 .1 .2 .5 .7 .9 .95
;.step param freq list 100k 250k 500k 750k
 
; best 250k duty=0.8
; best 500k duty=0.75  2.04Kv
.backanno
.end
